US08492549B2
[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]acetic acid ethyl ester
To a mixture of 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine (1.34 g, 5.84 mmol), piperidin-3-yl-acetic acid ethyl ester (1.0 g, 5.84 mmol) in acetonitrile (25 ml) was added K2CO3 (0.81 g, 5.84 mmol) and KI (0.97 g, 5.84 mmol). The reaction mixture was irradiated under microwaves at 82° C. for 8 h. Water (100 ml) was then added. The reaction mixture was extracted with DCM (3×50 ml). The combined organic phases were dried (Na2SO4), filtered and the filtrate was evaporated to give the title compound, which was purified by column chromatography (DCM/MeOH, 95:5).

reactant | 2-bromomethyl-2,3-dihydrobenzo[1,4]dioxine | 5.84 mmol, 1.34 g | BrCC1COC2=C(O1)C=CC=C2 | C9H9BrO2
reactant | piperidin-3-yl-acetic acid ethyl ester | 5.84 mmol, 1.0 g | C(C)OC(CC1CNCCC1)=O | C9H17NO2
reactant | K2CO3 | 5.84 mmol, 0.81 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | 100 ml | O | H2O
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | [1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)piperidin-3-yl]acetic acid ethyl ester | C(C)OC(CC1CN(CCC1)CC1COC2=C(O1)C=CC=C2)=O | C18H25NO4
